US20010018430A1
1-[(3-Hydroxy-4-methoxyphenyl)aminosulfonyl]-3,4,5-trimethoxybenzene
To a solution of 3,4,5-trimethoxybenzenesulfonyl chloride (500 mg, 1.88 mmol) in methanol (10 mL) was added 3-hydroxy4-methoxyaniline (523 mg, 3.76 mmol) at ambient temperature. After stirring for 1 h, the reaction mixture was concentrated and the crude residue was purified by chromatography over silica to afford 430 mg (62%) of product as fine white needles, m.p. 145-146° C. 1H-NMR (CDCl3): δ 9.74 (1H, s), 9.15 (1H, s), 6.98 (2H, s), 6.78 (1H, d, J═8.8 Hz), 6.63 (1H, d, J═2.6 Hz), 6.50 (1H, dd, J═8.8, 2.6 Hz), 3.76 (6H, s), 3.70 (3H, s), 3.68 (3H, s). Anal. Calcd. for C16H19N1O7S: C, 52.03; H, 5.18; N, 3.79; S, 8.68. Found: C, 51.87; H, 5.28; N, 3.76; S, 8.77. Each of the phenols above, as well as the related members having different substitution patterns can be phosphorylated using known methods including the procedure described in detail in Example 1.

reactant | 3,4,5-trimethoxybenzenesulfonyl chloride | 1.88 mmol, 500 mg | COC=1C=C(C=C(C1OC)OC)S(=O)(=O)Cl | C9H11ClO5S
reactant | 3-hydroxy4-methoxyaniline | 3.76 mmol, 523 mg | OC=1C=C(N)C=CC1OC | C7H9NO2
solvent | methanol | 10 mL | CO | CH4O
product | 1-[(3-Hydroxy-4-methoxyphenyl)aminosulfonyl]-3,4,5-trimethoxybenzene | 430 mg, 62% | OC=1C=C(C=CC1OC)NS(=O)(=O)C1=CC(=C(C(=C1)OC)OC)OC | C16H19NO7S
